US06713471B1
To a 1.0 M THF solution of LiAlH4 (2.3 mL, 2.3 mmol) cooled to ˜10° C. was added dropwise via cannula over 3 min (internal temperature <25° C.) a THF solution (2.3 mL) of 9-methyl-5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine (crude, 470 mg, 2.3 mmol). The cooling bath was removed once the addition was finished, and the reaction was maintained at 25° C. to 32° C. for 1.5 h. H2O (0.1 mL) was added cautiously over 5 min, followed by THF (40 mL), aqueous NaOH solution (15%, 0.1 mL), and again H2O (0.3 mL). The resulting mixture was vigorously stirred at 23° C. for 1 h and dried (MgSO4). The drying agent was removed by filtration and the filtrate was concentrated to afford a residue which was dissolved in EtOAc (4 mL). To this solution was added a 1M HCl.Et2O solution dropwise over 1 min. The solid was isolated by concentrated in vacuo to yield 9-methyl-3,4-dihydro-1,5-benzothiazepin-5(2H)-amine hydrochloride (477 mg, 80%) as a brown powder. 1H NMR (CDCl3, 300 MHz): δ7.13 (m, 2H), 6.91 (m, 1H), 4.00-3.80 (br s, 2H), 3.36 (t, 2H, J=5.7 Hz), 2.87 (t, 2H, J=5.7 Hz), 2.42 (s, 3H), 2.05 (m, 2H) ppm.

reactant | THF | 1.0 M | C1CCOC1 | C4H8O
reactant | LiAlH4 | 2.3 mmol, 2.3 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 2.3 mL | C1CCOC1 | C4H8O
reactant | 9-methyl-5-nitroso-2,3,4,5-tetrahydro-1,5-benzothiazepine | 2.3 mmol, 470 mg | CC1=CC=CC=2N(CCCSC21)N=O | C10H12N2OS
reactant | HCl | 1M | Cl | ClH
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | 9-methyl-3,4-dihydro-1,5-benzothiazepin-5(2H)-amine hydrochloride | 477 mg, 80% | Cl.CC1=CC=CC=2N(CCCSC21)N | InChI=1S/C10H14N2S.ClH/c1-8-4-2-5-9-10(8)13-7-3-6-12(9)11;/h2,4-5H,3,6-7,11H2,1H3;1H
